Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altercation injuries 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ had an altercation in prison resulted in  facial lacerations 
and nondisplaced sternal fracture R rib fracture, subacute 
manubrial, chronic T2-5 and T7-11 compression fracture.
 
Past Medical History:
1. bipolar disorder
2. staph infection ___ spider bite ___ at ___
3. opioid dependence, withdrawn since incarceration 
 
Social History:
___
Family History:
breast cancer in maternal aunts, nothing to report in
immediate family
 
Physical Exam:
Vitals: 97.7 PO 112 / 64 73 20 96 RA 
Gen: NAD, A/O, calm with blunted affect 
Heent: perrl, mmm, upper lip lac sutured, front tooth pain
without bleeding, forehead lac stapled, abrasions over right
parietal scalp with TTP, contusions with severe TTP at zygomatic
arches and orbitals bilat/worse on right
Neck: supple, no JVD, full ROM without pain
Chest: TTP superior sternum, TTP and pain with breathing and R 
UE
motion at R lateral and inferior chest radiating to back, skin
clear without contusions 
Cardio: RRR, no MRG
Pulm: CTAB, full/equal chest rise, no crepitus
ABD: SNT/ND, nl BS
Neuro: headache ___, L ear ache without fluid or erythema, full
strength and sensory fcn throughout. 
MSK: full ROM without joint pain at shoulders, elbows, wrists,
hips, knees, ankles; R shoulder movement elicits R lateral chest
pain, left knee TTP with contusion 

 
Pertinent Results:
___ 05:45AM   GLUCOSE-117* UREA N-10 CREAT-0.9 SODIUM-144 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-27 ANION GAP-12
___ 05:45AM   CALCIUM-9.0 PHOSPHATE-3.6 MAGNESIUM-2.1
___ 05:45AM   WBC-6.2 RBC-5.07 HGB-15.1 HCT-45.0 MCV-89 
MCH-29.8 MCHC-33.6 RDW-14.9 RDWSD-48.5*
___ 05:45AM   PLT COUNT-185
___ 10:48PM URINE  HOURS-RANDOM
___ 10:48PM URINE  UHOLD-HOLD
___ 10:48PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 10:48PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:48PM URINE  RBC-2 WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 10:48PM URINE  AMORPH-OCC*
___ 10:48PM URINE  MUCOUS-RARE*
___ 09:01AM   GLUCOSE-89 UREA N-8 CREAT-0.8 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-24 ANION GAP-13
___ 09:01AM   estGFR-Using this
___ 09:01AM   WBC-8.0 RBC-5.14 HGB-15.1 HCT-44.7 MCV-87 
MCH-29.4 MCHC-33.8 RDW-14.8 RDWSD-47.2*
___ 09:01AM   NEUTS-64.4 ___ MONOS-9.2 EOS-0.7* 
BASOS-0.5 IM ___ AbsNeut-5.18 AbsLymp-1.99 AbsMono-0.74 
AbsEos-0.06 AbsBaso-0.04
___ 09:01AM   PLT COUNT-___ assaulted in cell while incarcerated and was transferred 
from outside hospital to  ___ on ___ and was admitted 
to ___ service for evaluation and treatment, p/w forehead and 
upper lip lacs, headache, and R chest pain. Pt was in cell last 
night at ___ when he was assaulted by other inmates. He reports 
blows to face, head, and back. He struck his head on 
metal(received TDAP at 0628 today), causing forehead lac (now 
stapled), denies LOC, reports throbbing headache since incident 
stable at ___ with sensation of intermittent left earache. He 
reports tooth pain behind sutured upper lip lac. He reports R 
lateral chest tenderness with pain radiating to back on 
inspiration and R UE movement. Denies neck pain, denies 
wrist/hand pain, denies ankle pain, reports minor left knee pain 
due to impact on falling. Denies difficulty breathing, denies 
dizziness/lightheadedness, denies abd pain. in the ED he had CT 
chest/head/C-spine at the outside hospital: which showed 
CT HEAD: 
no intracranial bleed
extracranial soft tissue injury

CT maxillofacial without IV contrast:
soft tissue injury, no fx

CT c-spine:
straightening of cervical spine may reflect muscle spasm and/or
positioning; there is no fracture; alignment is normal

CT chest without contrast:
1. healing R rib ___ with callus formation 
2. nondisplaced manubrial and sternal fx which may be subacute.
correlation with point tenderness and clinical hx recommended.
3. mild compression deformities T2-5 and T7-11 vertebral bodies,
age indeterminate. no significant bony retropulsion into spinal
canal
4. incidental/nonacute findings described above

at ___ he underwent: MRI cervical and thoracic which showed 
:1. No acute fracture involving the cervical or thoracic spine. 
2. Multilevel mild superior endplate irregularity in the 
thoracic spine may 
represent Schmorl's nodes or the sequelae of Scheuermann's 
disease. 
3. Normal cervical and thoracic spinal cord without evidence of 
spinal canal 
or neural foraminal stenosis. He was put on pain control and 
observation of sternal fracture neurosurgery was consulted and  
recommended that there was no role for neurosurgical 
intervention at this time. No brace and no follow up needed. 
On ___ patient was deemed ready to be discharged, on pain 
medication.

 
Medications on Admission:
1. gabapentin 
2. Xanax
3. suboxone 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Lidocaine 5% Patch 1 PTCH TD QAM  
3.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
facial lacerations
nondisplaced sternal fx
R rib fx, subacute manubrial
chronic T2-5 and T7-11 compression fx.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.
 
Followup Instructions:
___